**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-MXGI
* Library Type:           LTspice
* Version:                rev26a
* Created/modified by:    Ella
* Date and Time:          7/13/2026
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 4020_74438440200016_0.16u 1 2
Rp 1 2 202.082
Cp 1 2 4.634p
Rs 1 N3 0.0019
L1 N3 2 0.140516u
.ends 4020_74438440200016_0.16u
*******
.subckt 4020_74438440200030_0.3u 1 2
Rp 1 2 324.19
Cp 1 2 5.277p
Rs 1 N3 0.002
L1 N3 2 0.263802u
.ends 4020_74438440200030_0.3u
*******
.subckt 4020_74438440200040_0.4u 1 2
Rp 1 2 413.88
Cp 1 2 4.599p
Rs 1 N3 0.0038
L1 N3 2 0.372371u
.ends 4020_74438440200040_0.4u
*******
.subckt 4020_74438440200065_0.65u 1 2
Rp 1 2 600.555
Cp 1 2 6.277p
Rs 1 N3 0.0048
L1 N3 2 0.635459u
.ends 4020_74438440200065_0.65u
*******
.subckt 4020_7443844020010_1u 1 2
Rp 1 2 862.274
Cp 1 2 7.493p
Rs 1 N3 0.0074
L1 N3 2 0.955225u
.ends 4020_7443844020010_1u
*******
.subckt 4020_7443844020012_1.2u 1 2
Rp 1 2 1069
Cp 1 2 7.558p
Rs 1 N3 0.0084
L1 N3 2 1.197u
.ends 4020_7443844020012_1.2u
*******
.subckt 4020_7443844020015_1.5u 1 2
Rp 1 2 1155
Cp 1 2 7.265p
Rs 1 N3 0.01
L1 N3 2 1.399u
.ends 4020_7443844020015_1.5u
*******
.subckt 4020_7443844020018_1.8u 1 2
Rp 1 2 1536
Cp 1 2 8.232p
Rs 1 N3 0.0119
L1 N3 2 1.754u
.ends 4020_7443844020018_1.8u
*******
.subckt 4020_7443844020022_2.2u 1 2
Rp 1 2 1823
Cp 1 2 7.977p
Rs 1 N3 0.0161
L1 N3 2 2.287u
.ends 4020_7443844020022_2.2u
*******
.subckt 4020_7443844020033_3.3u 1 2
Rp 1 2 2594
Cp 1 2 9.09p
Rs 1 N3 0.0266
L1 N3 2 3.204u
.ends 4020_7443844020033_3.3u
*******
.subckt 4020_7443844020039_3.9u 1 2
Rp 1 2 3239
Cp 1 2 8.975p
Rs 1 N3 0.0294
L1 N3 2 3.648u
.ends 4020_7443844020039_3.9u
*******
.subckt 4020_7443844020047_4.7u 1 2
Rp 1 2 3000
Cp 1 2 9.894p
Rs 1 N3 0.0413
L1 N3 2 4.181u
.ends 4020_7443844020047_4.7u
*******
.subckt 4030_74438440300004_0.04u 1 2
Rp 1 2 122.178
Cp 1 2 1.6p
Rs 1 N3 0.0005
L1 N3 2 0.039943u
.ends 4030_74438440300004_0.04u
*******
.subckt 4030_74438440300010_0.1u 1 2
Rp 1 2 224.841
Cp 1 2 2.954p
Rs 1 N3 0.0011
L1 N3 2 0.110127u
.ends 4030_74438440300010_0.1u
*******
.subckt 4030_74438440300016_0.16u 1 2
Rp 1 2 207.658
Cp 1 2 3.863p
Rs 1 N3 0.0012
L1 N3 2 0.143659u
.ends 4030_74438440300016_0.16u
*******
.subckt 4030_74438440300033_0.33u 1 2
Rp 1 2 362.754
Cp 1 2 6.056p
Rs 1 N3 0.00201
L1 N3 2 0.304571u
.ends 4030_74438440300033_0.33u
*******
.subckt 4030_74438440300040_0.4u 1 2
Rp 1 2 416.409
Cp 1 2 5.628p
Rs 1 N3 0.00253
L1 N3 2 0.355014u
.ends 4030_74438440300040_0.4u
*******
.subckt 4030_74438440300062_0.62u 1 2
Rp 1 2 618.078
Cp 1 2 7.009p
Rs 1 N3 0.00428
L1 N3 2 0.586049u
.ends 4030_74438440300062_0.62u
*******
.subckt 4030_7443844030010_1u 1 2
Rp 1 2 938.113
Cp 1 2 7.461p
Rs 1 N3 0.00635
L1 N3 2 0.959313u
.ends 4030_7443844030010_1u
*******
.subckt 4030_7443844030012_1.2u 1 2
Rp 1 2 1056
Cp 1 2 6.684p
Rs 1 N3 0.00844
L1 N3 2 1.166u
.ends 4030_7443844030012_1.2u
*******
.subckt 4030_7443844030015_1.5u 1 2
Rp 1 2 1263
Cp 1 2 7.911p
Rs 1 N3 0.00877
L1 N3 2 1.47u
.ends 4030_7443844030015_1.5u
*******
.subckt 4030_7443844030018_1.8u 1 2
Rp 1 2 1545
Cp 1 2 9.336p
Rs 1 N3 0.00947
L1 N3 2 1.738u
.ends 4030_7443844030018_1.8u
*******
.subckt 4030_7443844030022_2.2u 1 2
Rp 1 2 1684
Cp 1 2 8.426p
Rs 1 N3 0.01232
L1 N3 2 2.165u
.ends 4030_7443844030022_2.2u
*******
.subckt 4030_7443844030033_3.3u 1 2
Rp 1 2 2405
Cp 1 2 9.025p
Rs 1 N3 0.01641
L1 N3 2 3.227u
.ends 4030_7443844030033_3.3u
*******
.subckt 4030_7443844030039_3.9u 1 2
Rp 1 2 2531
Cp 1 2 10.864p
Rs 1 N3 0.02168
L1 N3 2 3.808u
.ends 4030_7443844030039_3.9u
*******
.subckt 4030_7443844030047_4.7u 1 2
Rp 1 2 3075
Cp 1 2 10.189p
Rs 1 N3 0.02447
L1 N3 2 4.564u
.ends 4030_7443844030047_4.7u
*******
.subckt 4030_7443844030056_5.6u 1 2
Rp 1 2 3488
Cp 1 2 12.29p
Rs 1 N3 0.02731
L1 N3 2 5.374u
.ends 4030_7443844030056_5.6u
*******
.subckt 4030_7443844030068_6.8u 1 2
Rp 1 2 4181
Cp 1 2 12.624p
Rs 1 N3 0.03264
L1 N3 2 6.61u
.ends 4030_7443844030068_6.8u
*******
.subckt 4030_7443844030082_8.2u 1 2
Rp 1 2 4436
Cp 1 2 11.833p
Rs 1 N3 0.04318
L1 N3 2 7.927u
.ends 4030_7443844030082_8.2u
*******
.subckt 4030_7443844030100_10u 1 2
Rp 1 2 5293
Cp 1 2 10.895p
Rs 1 N3 0.05785
L1 N3 2 9.678u
.ends 4030_7443844030100_10u
*******
.subckt 5030_74438450300022_0.22u 1 2
Rp 1 2 240.705
Cp 1 2 5.421p
Rs 1 N3 0.0015
L1 N3 2 0.1948u
.ends 5030_74438450300022_0.22u
*******
.subckt 5030_74438450300047_0.47u 1 2
Rp 1 2 466.287
Cp 1 2 7.872p
Rs 1 N3 0.0024
L1 N3 2 0.454048u
.ends 5030_74438450300047_0.47u
*******
.subckt 5030_74438450300060_0.6u 1 2
Rp 1 2 560.165
Cp 1 2 9.058p
Rs 1 N3 0.0028
L1 N3 2 0.521241u
.ends 5030_74438450300060_0.6u
*******
.subckt 5030_74438450300082_0.82u 1 2
Rp 1 2 768.537
Cp 1 2 10.732p
Rs 1 N3 0.0035
L1 N3 2 0.775289u
.ends 5030_74438450300082_0.82u
*******
.subckt 5030_7443845030010_1u 1 2
Rp 1 2 887.259
Cp 1 2 10.073p
Rs 1 N3 0.0052
L1 N3 2 0.942481u
.ends 5030_7443845030010_1u
*******
.subckt 5030_7443845030012_1.2u 1 2
Rp 1 2 1033
Cp 1 2 11.795p
Rs 1 N3 0.0045
L1 N3 2 1.186u
.ends 5030_7443845030012_1.2u
*******
.subckt 5030_7443845030015_1.5u 1 2
Rp 1 2 1296
Cp 1 2 13.02p
Rs 1 N3 0.0055
L1 N3 2 1.455u
.ends 5030_7443845030015_1.5u
*******
.subckt 5030_7443845030022_2.2u 1 2
Rp 1 2 1629
Cp 1 2 9.987p
Rs 1 N3 0.008
L1 N3 2 2.053u
.ends 5030_7443845030022_2.2u
*******
.subckt 5030_7443845030033_3.3u 1 2
Rp 1 2 2408
Cp 1 2 12.063p
Rs 1 N3 0.0127
L1 N3 2 3.429u
.ends 5030_7443845030033_3.3u
*******
.subckt 5030_7443845030047_4.7u 1 2
Rp 1 2 3239
Cp 1 2 12.212p
Rs 1 N3 0.0225
L1 N3 2 4.648u
.ends 5030_7443845030047_4.7u
*******
.subckt 5030_7443845030056_5.6u 1 2
Rp 1 2 3681
Cp 1 2 13.07p
Rs 1 N3 0.0245
L1 N3 2 5.433u
.ends 5030_7443845030056_5.6u
*******
.subckt 5030_7443845030068_6.8u 1 2
Rp 1 2 4591
Cp 1 2 12.543p
Rs 1 N3 0.0283
L1 N3 2 6.571u
.ends 5030_7443845030068_6.8u
*******
.subckt 5030_7443845030082_8.2u 1 2
Rp 1 2 5452
Cp 1 2 15.48p
Rs 1 N3 0.034
L1 N3 2 7.747u
.ends 5030_7443845030082_8.2u
*******
.subckt 5030_7443845030100_10u 1 2
Rp 1 2 5928
Cp 1 2 17.155p
Rs 1 N3 0.0418
L1 N3 2 9.812u
.ends 5030_7443845030100_10u
*******
.subckt 5030_7443845030120_12u 1 2
Rp 1 2 7206
Cp 1 2 16.147p
Rs 1 N3 0.0523
L1 N3 2 12.034u
.ends 5030_7443845030120_12u
*******
.subckt 5030_7443845030150_15u 1 2
Rp 1 2 7639
Cp 1 2 17.046p
Rs 1 N3 0.0645
L1 N3 2 14.474u
.ends 5030_7443845030150_15u
*******
